US04751240
Boron tribromide (0.66 ml. of a molar solution in methylene chloride) was added to a stirred solution of the (1RS,2RS)-2-p-fluorophenyl-1-(10-hexylthiodecyl)-1,2,3,4-tetrahydro-6-methoxynaphthalene thus obtained (0.11 g.) in methylene chloride (4 ml.) which was cooled to -70° C., and the mixture was allowed to warm up to laboratory temperature, stirred at that temperature for 16 hours and then poured onto ice (20 g.). The mixture was extracted three times with methylene chloride (10 ml. each time) and the combined extracts were washed with saturated aqueous sodium bicarbonate solution (5 ml.) and then with water, dried and evaporated to dryness. The residue was purified by chromatography on a silica gel column using toluene as eluent. There was thus obtained as an oil (1RS,2RS)-2-p-fluorophenyl-1-(10-hexylthiodecyl)-1,2,3,4-tetrahydronaphth-6-ol, the structure of which was confirmed by proton magnetic resonance and mass spectroscopy.

reactant | Boron tribromide | B(Br)(Br)Br | BBr3
reactant | (1RS,2RS)-2-p-fluorophenyl-1-(10-hexylthiodecyl)-1,2,3,4-tetrahydro-6-methoxynaphthalene | FC1=CC=C(C=C1)C1C(C2=CC=C(C=C2CC1)OC)CCCCCCCCCCSCCCCCC | C33H49FOS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | (1RS,2RS)-2-p-fluorophenyl-1-(10-hexylthiodecyl)-1,2,3,4-tetrahydronaphth-6-ol | FC1=CC=C(C=C1)C1C(C2=CC=C(C=C2CC1)O)CCCCCCCCCCSCCCCCC | C32H47FOS
